US03981932
To 3.85 g. of ethyl 3-mercapto-4-cyclohexylphenylglyoxylate in 40 ml. of water containing 0.65 g. of sodium hydroxide is added 2 ml. of dimethyl sulfate with stirring. The reaction mixture is gradually warmed to 40°C and stirred for 2 hours. The mixture is cooled and extracted with ether which is washed with water, dried and evaporated in vacuo. The residue is distilled to obtain ethyl 3-methylthio-4-cyclohexylphenylglyoxylate.

reactant | ethyl 3-mercapto-4-cyclohexylphenylglyoxylate | SC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H20O3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 0.65 g | O | H2O
product | ethyl 3-methylthio-4-cyclohexylphenylglyoxylate | CSC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C17H22O3S
